US05364871
A suspension of 4-(2-aminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole dihydrochloride (1.3 g), ethyl ethanesulfonylformimidate (0.8 g) and triethylamine (1.0 g) in methanol (20 ml) was stirred at room temperature for 8 hours. The solvent was removed under reduced pressure. The residue was chromatographed on a silica gel column eluting with a mixture of chloroform and methanol (10:1). Recrystallization from a mixture of N,N-dimethylformamide and water afforded 2-(diaminomethyleneamino)-4-(2-ethanesulfonyliminomethylaminomethylthiazol-4-yl)thiazole (0.53 g).

reactant | 4-(2-aminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole dihydrochloride | 1.3 g | Cl.Cl.NCC=1SC=C(N1)C=1N=C(SC1)N=C(N)N
reactant | ethyl ethanesulfonylformimidate | 0.8 g | C(C)S(=O)(=O)C(OCC)=N | C5H11NO3S
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 ml | CO | CH4O
product | 2-(diaminomethyleneamino)-4-(2-ethanesulfonyliminomethylaminomethylthiazol-4-yl)thiazole | 0.53 g | NC(N)=NC=1SC=C(N1)C=1N=C(SC1)CNC=NS(=O)(=O)CC | C11H15N7O2S3
